US08372823B2
3-(4-(Benzyloxy)phenyl)-1-(oxazolo[4,5-b]pyridin-2-yl)propan-1-ol (S51).
A mixture of anhydrous EtOH (3.6 mL) and CHCl3 (4.0 mL) at 0° C. was treated with acetyl chloride (3.4 mL, 47.6 mmol, 16.2 equiv) and was stirred for 20 min. A solution of 4-(4-(benzyloxy)phenyl)-2-hydroxybutanenitrile (S50, 750 mg, 2.94 mmol, 1 equiv) in 9 mL of CHCl3 was added dropwise and the reaction was stirred for 20 h at 25° C. The reaction mixture was concentrated and the crude product was dissolved in anhydrous EtOH. 2-Amino-3-hydroxypyridine (370 mg, 3.36 mmol, 1.1 equiv) was added and the reaction mixture was warmed at reflux overnight. Concentration followed by column chromatography (SiO2, 2.5×8 cm, 0-4% MeOH—CHCl3 gradient) afforded S51 (130 mg, 0.36 mmol, 13%) as a tan oil: 1H NMR (CDCl3, 600 MHz) 8.52 (d, 1H, J=4.8 Hz), 7.78 (d, 1H, J=7.9 Hz), 7.43 (d, 2H, J=7.0 Hz), 7.39 (t, 2H, J=7.9 Hz), 7.34-7.31 (m, 1H), 7.28-7.26 (m, 1H), 7.14 (d, 2H, J=8.3 Hz), 6.87 (d, 2H, J=8.3 Hz), 5.07-5.00 (m, 1H), 5.00 (s, 2H), 2.84-2.81 (m, 2H), 2.36-2.30 (m, 2H); 13C NMR (CDCl3, 150 MHz) 157.0, 154.6, 146.1, 143.0, 137.0, 133.0 (2C), 129.4, 128.5, 127.8, 127.4, 120.2, 118.8, 114.7, 69.9, 67.0, 36.9, 30.1; IR (film) νmax 3380, 2926, 1665, 1612, 1557, 1511, 1454, 1410, 1382, 1239, 1177, 1092, 1026, 831, 785, 737, 700 cm−1.

reactant | EtOH | 3.6 mL | CCO | C2H6O
reactant | acetyl chloride | 47.6 mmol, 3.4 mL, 16.2 equiv | C(C)(=O)Cl | C2H3ClO
reactant | 4-(4-(benzyloxy)phenyl)-2-hydroxybutanenitrile | 2.94 mmol, 750 mg, 1 equiv | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(C#N)O | C17H17NO2
reactant | 2-Amino-3-hydroxypyridine | 3.36 mmol, 370 mg, 1.1 equiv | NC1=NC=CC=C1O | C5H6N2O
solvent | CHCl3 | 9 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 4.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-(Benzyloxy)phenyl)-1-(oxazolo[4,5-b]pyridin-2-yl)propan-1-ol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(O)C=1OC=2C(=NC=CC2)N1 | C22H20N2O3
